US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (400 mg) and 4-(2-azepan-1-ylethoxy)benzoyl chloride hydrochloride (530 mg) according to an analogous synthetic method to Example 187, the title compound (390 mg) was obtained.

reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 400 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoyl chloride hydrochloride | 530 mg | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 390 mg | N1(CCCCCC1)CCOC1=CC=C(CCCNC2=C(C=CC(=C2)O)C2CC=3C=CC(=CC3CC2)O)C=C1 | C33H42N2O3
